US07084154B2
Methylamine in methanol (2 M, 20 mL) was added to 2-acetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride (2 g). The mixture was stirred at rt for 16 h. Excess methylamine and methanol were evaporated under vacuum and hydrochloric acid (10%, 30 mL) was added to the residue. The mixture was heated at reflux for 3 h and the aqueous solution was evaporated under vacuum. The residue was trituiated with ethyl acetate (2×20 mL) to afford 7-methylaminosulfonyl-1,2,3,4-tetrahydro-isoquinoline hydrochloride (1.9 g).

reactant | Methylamine | CN | CH5N
reactant | 2-acetyl-1,2,3,4-tetrahydro-isoquinoline-7-sulfonyl chloride | 2 g | C(C)(=O)N1CC2=CC(=CC=C2CC1)S(=O)(=O)Cl | C11H12ClNO3S
solvent | methanol | 2 M, 20 mL | CO | CH4O
product | 7-methylaminosulfonyl-1,2,3,4-tetrahydro-isoquinoline hydrochloride | 1.9 g | Cl.CNS(=O)(=O)C1=CC=C2CCNCC2=C1 | InChI=1S/C10H14N2O2S.ClH/c1-11-15(13,14)10-3-2-8-4-5-12-7-9(8)6-10;/h2-3,6,11-12H,4-5,7H2,1H3;1H
